US07589206B2
7-Cyclohexylamino-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-yl)-amide hydrochloride salt
Prepared in a similar manner to Example 12, from 7-chloro-3-methyl-4-(tetrahydro-pyran-4-ylcarbamoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester except that the methanesulfonic acid was omitted. Cyclohexylamine (900 ul) was used and the reaction time was 15 h. Ethyl acetate was used instead of dichloromethane as solvent in the work up, no chromatography was required, and ethyl acetate was used instead of dichloromethane in the salt formation, to give the title compound (13 mg).

reactant | 7-chloro-3-methyl-4-(tetrahydro-pyran-4-ylcarbamoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(NC2CCOCC2)=O)Cl)C | C19H24ClN3O4
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | Cyclohexylamine | 900 ul | C1(CCCCC1)N | C6H13N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Cyclohexylamino-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-yl)-amide hydrochloride salt | 13 mg | Cl.O1CCC(CC1)NC(=O)C=1C2=C(C(=NC1)NC1CCCCC1)NC=C2C | InChI=1S/C20H28N4O2.ClH/c1-13-11-21-18-17(13)16(20(25)24-15-7-9-26-10-8-15)12-22-19(18)23-14-5-3-2-4-6-14;/h11-12,14-15,21H,2-10H2,1H3,(H,22,23)(H,24,25);1H
